US07442842B2
b) Synthesis of 6-(3,5-dioxa-4-phosphacyclohepta[2,1-a;3,4-a′]dinaphthalen-4-yl)-2-pivaloylaminopyridine
N-(6-(bis(diethylamino)phosphino)pyridin-2-yl)pivalamide (0.292 g, 0.60 mmol, 1 eq) was dissolved in toluene (12 ml). (S)-BINOL (0.172 g, 0.60 mmol, 1 eq) was subsequently added and the reaction mixture was refluxed for 3 hours. The solvent was removed under reduced pressure. The title compound could be obtained in the form of a white solid (0.276 g, 0.56 mmol, 93%).

reactant | N-(6-(bis(diethylamino)phosphino)pyridin-2-yl)pivalamide | 0.60 mmol, 0.292 g, 1 eq | C(C)N(CC)P(C1=CC=CC(=N1)NC(C(C)(C)C)=O)N(CC)CC | C18H33N4OP
reactant | (S)-BINOL | 0.60 mmol, 0.172 g, 1 eq | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3,5-dioxa-4-phosphacyclohepta[2,1-a;3,4-a′]dinaphthalen-4-yl)-2-pivaloylaminopyridine | C1=CC2=C(C=3C=CC=CC13)C=1C(=CC=C3C=CC=CC13)OP(O2)C2=CC=CC(=N2)NC(C(C)(C)C)=O | C30H25N2O3P
